US08492582B2
A solution mixture of 2-(acetamido)-5-methoxy-4-phenylbenzoic acid (0.41 g) in dioxane (1.2 mL) and concentrated hydrochloric acid (1.2 mL) was heated to reflux for 3 hours and 40 minutes. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and water was added to the residue. After adjusting the pH to 7 with a 1 mol/L aqueous solution of sodium hydroxide, chloroform was added thereto. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 2-amino-5-methoxy-4-phenylbenzoic acid as a brown solid.

reactant | 2-(acetamido)-5-methoxy-4-phenylbenzoic acid | 0.41 g | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1)C1=CC=CC=C1)OC | C16H15NO4
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 1.2 mL | Cl | ClH
product | 2-amino-5-methoxy-4-phenylbenzoic acid | NC1=C(C(=O)O)C=C(C(=C1)C1=CC=CC=C1)OC | C14H13NO3
